US05208250
5-[[3-[(Dimethylamino)methyl]-4-hydroxy-5-methoxyphenyl]methylene]-2-thioxo-4-thiazolidinone
A mixture of 3-[(dimethylamino)methyl]-4-hydroxy-5-methoxybenzaldehyde (2.5 g, 12 mmoles), rhodanine (1.6 g, 12 mmoles), β-alanine (0.6 g, 7 mmoles), and acetic acid (35 ml) is stirred under an inert atmosphere and heated to reflux. After 4 hours the acetic acid is removed by rotary evaporator and the residue dissolved in water (250 ml). The solution is brought to approximate neutrality by addition of saturated aqueous sodium bicarbonate, and stirred for 3 hours. The precipitate is filtered off, rinsed three times with water and dried, then triturated in boiling methanol (100 ml), cooled, filtered off and dried to afford the pure product (2.9 g), mp 198° C. (dec).

reactant | 3-[(dimethylamino)methyl]-4-hydroxy-5-methoxybenzaldehyde | 12 mmoles, 2.5 g | CN(C)CC=1C=C(C=O)C=C(C1O)OC | C11H15NO3
reactant | rhodanine | 12 mmoles, 1.6 g | S1C(=S)NC(=O)C1 | C3H3NOS2
reactant | β-alanine | 7 mmoles, 0.6 g | NCCC(=O)O | C3H7NO2
solvent | acetic acid | 35 ml | C(C)(=O)O | C2H4O2
product | 5-[[3-[(Dimethylamino)methyl]-4-hydroxy-5-methoxyphenyl]methylene]-2-thioxo-4-thiazolidinone | 2.9 g | CN(C)CC=1C=C(C=C(C1O)OC)C=C1C(NC(S1)=S)=O | C14H16N2O3S2
